US09399636B2
To a mixture of the compound 1-tert-butyl 4-ethyl 4-(2-chloropyridin-4-yl)piperidine-1,4-dicarboxylate (50 g, 0.14 mols, 1 equiv.) in ethanol (75 mL) was added 500 mL of a 10% solution of NaOH. The mixture was refluxed for 2 h. The reaction was monitored by TLC (ethyl acetate/petroleum ether; 1/5), cooled, concentrated to a half of the primary volume and extracted with methyltertiarybutyl ether (3×150 mL). The aqueous layer was acidified with 3M hydrochloric acid to pH=4 and extracted with dichloromethane (2×350 mL). The combined organic layers were dried over anhydrous sodium sulfate. The organic was concentrated to give crude product 1-(tert-butoxycarbonyl)-4-(2-chloropyridin-4-yl)piperidine-4-carboxylic acid (42 g, 91% crude). The crude was used as is in Step C.

reactant | 1-tert-butyl 4-ethyl 4-(2-chloropyridin-4-yl)piperidine-1,4-dicarboxylate | 0.14 mols, 50 g, 1 equiv. | ClC1=NC=CC(=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C18H25ClN2O4
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 1-(tert-butoxycarbonyl)-4-(2-chloropyridin-4-yl)piperidine-4-carboxylic acid | 42 g, 91% | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)C1=CC(=NC=C1)Cl | C16H21ClN2O4
